US06479527B1
4-(3,4-Dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylic acid (Compound No. 8 in Table I)
Sodium hydroxide (3N, 1.3 ml) was added to a stirred solution of ethyl 4-(3,4-dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylate (0.137 g) in THF (2.5 ml) and methanol (2.5 ml). Stirring was continued for 16 hours at ambient temperature, concentrated in vacuo and the residue dissolved in water. Dropwise addition of acetic acid led to precipitation of the product as a white solid which was filtered and dried (0.107 g, 85%), NMR d(DMSO) 5.79 (2H, s), 7.05 (1H, m), 7.28 (2H, m), 7.42 (1H, s), 7.60 (2H, m); M/z (−) 326 (M+), 324, 282, 280.

reactant | Sodium hydroxide | 3N, 1.3 ml | [OH-].[Na+]
reactant | ethyl 4-(3,4-dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylate | 0.137 g | ClC=1C=C(CN2C3=C(C=C2C(=O)OCC)SC=C3)C=CC1Cl | C16H13Cl2NO2S
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 2.5 ml | CO | CH4O
product | 4-(3,4-Dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylic acid | ClC=1C=C(CN2C3=C(C=C2C(=O)O)SC=C3)C=CC1Cl | C14H9Cl2NO2S
